US06982278B2
4-[2-(2,6-Diallyl-4-benzyloxy-phenoxy)-ethyl]-5-methyl-2-phenyl-oxazole
A mixture of 2,6-diallyl-4-benzyloxy-phenol (520 mg, 1.85 mmol), toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)ethyl ester (Japan Tobacco Inc WO 9518125) (828 mg, 2.32 mmol), and Cs2CO3 (604 mg, 1.85 mmol) was heated at 55° C. in DMF (5 mL) for 20 h. Additional toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)ethyl ester (300 mg, 0.839 mmol) and CS2CO3 (200 mg, 0.614 mmol) were added, and the mixture was heated for 18 h. The reaction mixture was cooled and partitioned between EtOAc (40 mL) and H2O (10 mL). The organic layer was washed with brine (15 mL), dried (Na2SO4), and concentrated. The crude product was purified by radial chromatography using hexanes:ethyl acetate (8:1) to give a colorless oil (722 mg, 83%): 1H NMR (400 MHz, CDCl3) δ 2.38 (s, 3H), 2.95 (t, 2H, J=6.3 Hz), 3.33 (d, 2H, J=6.3 Hz), 4.01 (t, 2H, J=6.3 Hz), 4.96 (s, 2H), 4.97-5.02 (m, 2H), 5.03 (s, 2H), 5.84-5.94 (m, 1H), 6.65 (s, 2H), 7.28-7.45 (m, 8H), 7.99 (dd, 2H, J=2.0, 7.8 Hz).

reactant | 2,6-diallyl-4-benzyloxy-phenol | 1.85 mmol, 520 mg | C(C=C)C1=C(C(=CC(=C1)OCC1=CC=CC=C1)CC=C)O | C19H20O2
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)ethyl ester | 2.32 mmol, 828 mg | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
reactant | Cs2CO3 | 1.85 mmol, 604 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)ethyl ester | 0.839 mmol, 300 mg | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[2-(2,6-Diallyl-4-benzyloxy-phenoxy)-ethyl]-5-methyl-2-phenyl-oxazole | 722 mg, 83% | C(C=C)C1=C(OCCC=2N=C(OC2C)C2=CC=CC=C2)C(=CC(=C1)OCC1=CC=CC=C1)CC=C | C31H31NO3
